US05804601
6-Cyano-6-(1-naphthyl)hexanohydroxamic acid (Compound 3-1)
In THF (8.5 ml)-DMF (0.1 ml) was dissolved 6-cyano-6-(1-naphthyl)hexanoic acid (4.0 g) (15 mmol) followed by dropwise addition of oxalyl chloride (3.2 ml) (37.5 mmol) at room temperature. After 15 minutes of stirring, the excess oxalyl chloride was distilled off under reduced pressure. The residue was dissolved in dichloromethane (63 ml) and the solution was added to a solution (63 ml) of hydroxylamine hydrochloride (3.13 g) (45 mmol) in saturated aqueous sodium hydrogen carbonate solution with ice-cooling. The reaction was carried out at room temperature for 2 hours, at the end of which time the reaction mixture was made weakly acidic with concentrated hydrochloric acid. The organic layer was washed with saturated aqueous sodium chloride solution (50 ml), dried over anhydrous sodium sulfate, and purified by silica gel column chromatography (hexane-ethyl acetate=1:9) to provide the title compound (4.08 g) (yield 96.3%) as colorless oil.

reactant | 6-cyano-6-(1-naphthyl)hexanoic acid | 15 mmol, 4.0 g | C(#N)C(CCCCC(=O)O)C1=CC=CC2=CC=CC=C12 | C17H17NO2
reactant | oxalyl chloride | 37.5 mmol, 3.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | hydroxylamine hydrochloride | 45 mmol, 63 ml, 3.13 g | Cl.NO
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 8.5 ml | C1CCOC1 | C4H8O
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 6-Cyano-6-(1-naphthyl)hexanohydroxamic acid | 4.08 g, yield 96.3% | C(#N)C(CCCCC(=O)NO)C1=CC=CC2=CC=CC=C12 | C17H18N2O2
